US05059609
6-Methoxy-3-(2-thiazolyl)methylene-4-chromanone
By the method of Example 1, 6-methoxy-4-chromanone (3.97 g, 0.0223 mol) and 2-thiazolecarbaldehyde (3.00 g, 0.0265 mol) were converted to present title product which was recrystallized from methanol, 1.20 g (20%), m.p. 130°-132° C., tlc (1:19 CH3OH:CH2Cl2) Rf 0.67.

reactant | 6-methoxy-4-chromanone | 0.0223 mol, 3.97 g | COC=1C=C2C(CCOC2=CC1)=O | C10H10O3
reactant | 2-thiazolecarbaldehyde | 0.0265 mol, 3.00 g | S1C(=NC=C1)C=O | C4H3NOS
product | 6-Methoxy-3-(2-thiazolyl)methylene-4-chromanone | COC=1C=C2C(C(COC2=CC1)=CC=1SC=CN1)=O | C14H11NO3S
